US05710336
5,6-Dihydroxy-2-methylaminotetralin hydrochloride
A mixture of 10.0 g of 5,6-dihydroxy-2-methylamino-1-tetralone hydrobromide, 2.0 g of Pd/C 5%, 90 ml of water and 10 ml of 37% HCl is hydrogenated in an autoclave (Hastelloy) (20 atm, 80° C.) for 8-9 hours, then is filtered washing with hot water. The aqueous solution is concentrated under vacuum and the resulting solid is warm triturated with 100 ml of 37% hydrochloric acid, then cooled to 0° C. and filtered. The resulting solid is recrystallized from acetone and dried under vacuum at 60° C. Yield: 7.4 g.

reactant | 5,6-dihydroxy-2-methylamino-1-tetralone hydrobromide | 10.0 g | Br.OC1=C2CCC(C(C2=CC=C1O)=O)NC
reactant | HCl | 10 ml | Cl | ClH
catalyst | Pd/C | 90 ml, 2.0 g | [Pd] | Pd
solvent | water | O | H2O
product | 5,6-Dihydroxy-2-methylaminotetralin hydrochloride | Cl.OC1=C2CCC(CC2=CC=C1O)NC | InChI=1S/C11H15NO2.ClH/c1-12-8-3-4-9-7(6-8)2-5-10(13)11(9)14;/h2,5,8,12-14H,3-4,6H2,1H3;1H
